Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
gestational hypertension, 34 weeks
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G2P0 at 34+2 with cHTN (mild range BPs at 11 weeks) 
presenting with new onset ___ frontal HA and intermittent 
blurry vision. Denies flashing of lights and floaters. Works at 
___ and reports had normal fundoscopic exam today 
performed by her coworker. Also reports intermittent dizziness. 
Reports adequate PO intake. Pt denies epigastric pain/RUQ pain, 
SOB, CP, palpitations. Denies CTX, VB, and LOF. +AFM.
Had evaluation for preeclampsia one day ago with elevated Bps in 
office: 165/89 and 152/87 (with blue cuff) in office. That 
evaluation was negative and she had normal BPs in triage.
 
Past Medical History:
PNC:
-___: ___ by LMP
-Labs: A+/Ab-/HBsAg-/RPRNR/RI/HIV-/GBSunk
-Screening: LR ERA
-FFS: WNL, post placenta
GLT: 74
-EFW: ___ 79%
-Issues:
*obesity, BMI 42.6
*chlamydia at IOB, neg TOC
*OSA
OBHx: 1 SAB (D&C)
GynHx: Chlamydia at IOB. Denies fibroids, abnromal pap.
PMH: obesity, OSA, headaches
PSH: D&C
Meds: NKDA
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 508)
Temp: 98.1 (Tm 98.4), BP: 121/73 (120-134/71-81), HR: 84 
(74-90),
RR: 18, O2 sat: 97% (97-98), O2 delivery: RA, FHR: 110-120
(110-140)

Gen NAD
Pulm nl resp effort
Abd soft, nontender
Ext no edema, nontender

 
Pertinent Results:
___ 10:00AM BLOOD WBC-12.2* RBC-4.26 Hgb-11.5 Hct-35.3 
MCV-83 MCH-27.0 MCHC-32.6 RDW-13.9 RDWSD-41.1 Plt ___
___ 06:37PM BLOOD WBC-11.6* RBC-4.12 Hgb-11.2 Hct-34.3 
MCV-83 MCH-27.2 MCHC-32.7 RDW-14.1 RDWSD-42.3 Plt ___
___ 10:00AM BLOOD Creat-0.6
___ 06:37PM BLOOD Creat-0.7
___ 10:00AM BLOOD ALT-16 AST-16
___ 06:37PM BLOOD ALT-18 AST-19
___ 10:00AM BLOOD UricAcd-6.0*
___ 06:37PM BLOOD UricAcd-6.2*
___ 10:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR*
___ 06:37PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 10:00AM URINE RBC-1 WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-11 TransE-<1
___ 06:37PM URINE RBC-1 WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-17
___ 10:00AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 06:37PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:00AM URINE Hours-RANDOM Creat-80 TotProt-17 
Prot/Cr-0.2
___ 06:37PM URINE Hours-RANDOM Creat-203 TotProt-26 
Prot/Cr-0.1
___ 11:08PM URINE Hours-RANDOM Creat-117 TotProt-13 
Prot/Cr-0.1
___ 09:45PM URINE pH-6 Hours-24 Volume-4325 Creat-21 
TotProt-<4 Prot/Cr-<0.2
___ 12:38PM URINE pH-6 Hours-24 Volume-3400 Creat-68 
TotProt-6 Prot/Cr-0.1
___ 09:45PM URINE 24Creat-908
___ 12:38PM URINE 24Creat-___ 24Prot-204
 
Brief Hospital Course:
Ms. ___ is a ___ G2P0 with gestational hypertension who was 
was admitted for preeclampsia work-up due to elevated blood 
pressures and headache. She was observed with normal blood 
pressure noted within first day. some isolated ones were in mild 
range. Her pregnancy-induced hypertension labs, urine 
protein:creatinine ratio, and 24-hour urine protein were within 
normal limits. 
Her headache resolved with fluids, po intake and rest. She 
remained asymptomatic, without severe range blood pressures, 
headache, visual changes, chest pain, shortness of breath, or 
RUQ pain. A fetal scan was done showing normal growth and 
amniotic fluid volume to date. A category 1 tracing was noted on 
monitoring.
The patient was collecting a second 24 urine and given normal 
blood pressures, was discharged to await those results.She was 
given a diagnosis of gestational hypertension. She was 
discharged home with precautions and follow-up within the week..

 
Medications on Admission:
Prenatal vitamins
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pregnancy at 34 weeks.
Gestational Hypertension, resolved
headache, resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call for headache, decreased fetal movement, vaginal bleeding.
 
Followup Instructions:
___